US05840917
N-(Diaminophosphinyl)-3-(2-benzoxazolyl)propionamide
N-(Diaminophosphinyl)-3-(2-benzoxazolyl)prop enamide (0.25 g) was dissolved in methanol (30 ml) with heating, and 10% Pd--C (wet) (0.05 g) was added. The mixture was hydrogenated at room temaperature under atmospheric pressure for 1 hour. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. Precipitated crystals were collected by filtration to give N-(diaminophosphinyl)-3-(2-benzoxazolyl)propinonamide (0.17 g) as colorless crystals.

reactant | N-(Diaminophosphinyl)-3-(2-benzoxazolyl)prop enamide | 0.25 g | NP(=O)(NC(C=CC=1OC2=C(N1)C=CC=C2)=O)N | C10H11N4O3P
solvent | methanol | 30 ml | CO | CH4O
product | N-(Diaminophosphinyl)-3-(2-benzoxazolyl)propionamide | NP(=O)(NC(CCC=1OC2=C(N1)C=CC=C2)=O)N | C10H13N4O3P
